US08252935B2
To a solution of 2-[5-(2-ethyl-piperidin-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester (12 mg, 0.03 mmol) in MeOH (1 mL) was added 3N NaOH (0.200 mL) and heated to 60° C. for 2 h. The reaction was concentrated in vacuo to remove MeOH. The thick liquid was acidified to pH=2 by 2N HCl. The resulting acidic solution was extracted with EtOAc. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by Gilson reverse phase column chromatography to obtain 2-[5-(2-ethyl-piperidin-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid. 1H-NMR (CDCl3): δ 0.80 (t, 3H), 0.92 (d, 6H), 1.44 (m, 1H), 1.50 (q, 1H), 1.58-1.69 (m, 3H), 1.89 (m, 1H), 2.02 (m, 2H), 2.14-2.26 (m, 2H), 3.29 (m, 2H), 3.68-3.81 (m, 2H), 7.59-7.73 (m, 7H); Calcd for C26H32F3NO2 (M+H) 448.53, Found 448.34

reactant | 2-[5-(2-ethyl-piperidin-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | 0.03 mmol, 12 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)N1C(CCCC1)CC)C1=CC=C(C=C1)C(F)(F)F)=O | C28H36F3NO2
reactant | NaOH | 3N, 0.200 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 2-[5-(2-ethyl-piperidin-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | C(C)C1N(CCCC1)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C26H32F3NO2
